US04806686
Reaction starting from 3,4-dimethyl-1-nitrobenzene 40.32 g (266.6 mmol) of 3,4-dimethyl-1-nitrobenzene and 22 g of Raney nickel were hydrogenated in 200 ml of methanol at 55° C. and 5 bar of H2 pressure for 2 h. According to analysis by gas chromatography, the hydrogenation to 3,4-dimethylaniline gave no byproducts. A further 22 g of Raney nickel were then added to the mixture. 40 g of 100% pure ribose and 1.0 g of boric acid, made up to 360 ml with methanol, were then pumped in over 4 h at 5 bar H2 pressure at 55° C. The reaction mixture was maintained at 5 bar H2 pressure and 55° C. for a further 2 h. The catalyst was then separated off at 60° C. on a hot suction filter. The mother liquor was concentrated to 350 g, and 350 g of hot water were then added. The reaction mixture obtained was cooled down and then stirred at room temperature for 1 h and in an ice-water bath for 3 h. The crystals obtained were filtered off with suction, washed with 50 ml each of cold water and cold methanol and dried. 58.5 g were obtained, corresponding to 86% of theory ([α]D25 =-37.2).

reactant | 3,4-dimethyl-1-nitrobenzene | 266.6 mmol, 40.32 g | CC=1C=C(C=CC1C)[N+](=O)[O-] | C8H9NO2
catalyst | Raney nickel | 22 g | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
